US07119122B2
(3-Methoxybenzyl)dimethylamine (2.03 mL, 2.00 g, 12.1 mmol) was dissolved in anhydrous THF (20 mL) under nitrogen and cooled to 0° C. with an ice-water bath. Butyllithium (2.5M in hexanes, 5.3 mL, 13.3 mmol) was added dropwise via syringe over 10 min (temperature kept below 5 C.). After stirring at 0° C. for 2 h, iodoethane (1.1 mL, 2.1 g, 13.8 mmol) was added dropwise via syringe over 25 min (temperature kept below 5° C.). The reaction mixture was allowed to reach ambient temperature. After 4 h, the reaction contents were transferred with diethyl ether and adsorbed onto silica gel (3.8 g) upon removal of the solvent in vacuo. Chromatography gave (2-ethyl-3-methoxybenzyl)dimethylamine (1.30 g, 56%) as a pale yellow solid.

reactant | (3-Methoxybenzyl)dimethylamine | 12.1 mmol, 2.03 mL, 2.00 g | COC=1C=C(CN(C)C)C=CC1 | C10H15NO
reactant | Butyllithium | 13.3 mmol, 2.5M, 5.3 mL | C(CCC)[Li]
reactant | iodoethane | 13.8 mmol, 1.1 mL, 2.1 g | ICC | C2H5I
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | (2-ethyl-3-methoxybenzyl)dimethylamine | 1.30 g, 56% | C(C)C1=C(CN(C)C)C=CC=C1OC | C12H19NO
